US09428533B2
5-(Chloromethyl)-4-(1H-imidazol-2-yl)-2-methyl-pyridin-3-ol hydrochloride
5-(hydroxymethyl)-4-(1H-imidazol-2-yl)-2-methylpyridin-3-ol (5.1 g, 25 mmol) was suspended in toluene (100 mL) and thionyl chloride (25 mL) was added. The suspension was heated to reflux for 2 h, cooled to 0° C. and filtered. The title compound was obtained as brown solid (Purity by NMR: 70-80%) and was used without further purification in the next step.

reactant | 5-(hydroxymethyl)-4-(1H-imidazol-2-yl)-2-methylpyridin-3-ol | 25 mmol, 5.1 g | OCC=1C(=C(C(=NC1)C)O)C=1NC=CN1 | C10H11N3O2
reactant | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(Chloromethyl)-4-(1H-imidazol-2-yl)-2-methyl-pyridin-3-ol hydrochloride | Cl.ClCC=1C(=C(C(=NC1)C)O)C=1NC=CN1 | InChI=1S/C10H10ClN3O.ClH/c1-6-9(15)8(7(4-11)5-14-6)10-12-2-3-13-10;/h2-3,5,15H,4H2,1H3,(H,12,13);1H
